US08232265B2
Benzalkonium Sulfathiazole
Benzalkonium chloride (0.003 mol) was dissolved in 100 mL of distilled water by gentle stirring and heating. Sulfathiazole sodium (0.003 mol) was dissolved in 60 mL of distilled water by gentle stirring and heating. The two solutions were combined and the reaction mixture was stirred and heated for 1 h. The reaction mixture was cooled to room temperature and 60 mL of chloroform was added to the reaction mixture. The two phases were separated and the chloroform phase was washed several times with cool distilled water to remove any inorganic salt. The presence of chloride ions was monitored by silver nitrate test. A rotary evaporator removed the chloroform and an orange wax was obtained in a 50.04% yield. 1H and 13C NMR (DMSO) were obtained. Melting point (hot plate apparatus)=40-50° C. Thermal data was determined by thermalgravimetric analysis: Tonset5%=156° C. and Tonset=173° C. The benzalkonium ion is a known antibacterial and the other ion is used to treat, for example, gonorrhea and other bacterial infections.

reactant | Benzalkonium chloride | 0.003 mol | CCCCCCCCCCCCC[N+](C)(C)CC=1C=CC=CC1.[Cl-]
reactant | Sulfathiazole sodium | 0.003 mol | C1=CC(=CC=C1N)S(=O)(=O)[N-]C2=NC=CS2.[Na+]
reactant | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
reactant | benzalkonium | CCCCCCCCCCCCC[N+](C)(C)CC=1C=CC=CC1
solvent | water | 100 mL | O | H2O
solvent | water | 60 mL | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | Benzalkonium Sulfathiazole | 50.04% yield | CCCCCCCCCCCCC[N+](C)(C)CC=1C=CC=CC1.C1=CC(=CC=C1N)S(=O)(=O)NC2=NC=CS2 | InChI=1S/C22H40N.C9H9N3O2S2/c1-4-5-6-7-8-9-10-11-12-13-17-20-23(2,3)21-22-18-15-14-16-19-22;10-7-1-3-8(4-2-7)16(13,14)12-9-11-5-6-15-9/h14-16,18-19H,4-13,17,20-21H2,1-3H3;1-6H,10H2,(H,11,12)/q+1;
